US06897231B2
SYNTHESIS OF 3-[3-(2-PHENYLACETYLAMINO)PHENYL]-1H-INDAZOLE-5-CARBOXAMIDE
Following Example 290, reaction of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (250 mg, 0.74 mmol) with phenylacetic acid (0.15 g, 0.89 mmol) and EDCI (0.21 g, 1.11 mmol) furnished 32 mg (12% yield) of the title compound as a white solid. 1H NMR (DMSOd6) δ 13.2 (br s, 1H), 10.4 (s, 1H), 8.6 (s, 1H), 8.2 (bs, 1H), 8.1 (m, 1H), 7.9 (dd, 1H), 7.8-7.5 (m, 2H), 7.6 (dd, 1H), 7.5 (t, 1H), 7.4-7.3 (m, 3H), 7.3-7.2 (m, 1H), 3.7 (s, 2H); ES-MS (m/z) 371 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.74 mmol, 250 mg | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | phenylacetic acid | 0.89 mmol, 0.15 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | EDCI | 1.11 mmol, 0.21 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-[3-(2-PHENYLACETYLAMINO)PHENYL]-1H-INDAZOLE-5-CARBOXAMIDE | 32 mg, 12% yield | C1(=CC=CC=C1)CC(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C22H18N4O2
